US08633189B2
4-Cyclopentylaniline (210 mg, 1.30 mmol) was dissolved in cold (0° C.) DMF (8 mL) and treated with NBS (232 mg, 1.30 mmol). The reaction was stirred at 0° C. for 5 min and then warmed to room temperature for 1 h. The reaction mixture was poured into water (40 mL) and extracted with ethyl acetate (3×20 mL). The combined organic extracts dried over MgSO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (0-50% ethyl acetate/hexanes) yielded 2-bromo-4-cyclopentylaniline (251 mg, 80% yield). LC/MS m/z 242.0 [M+H]+.

reactant | 4-Cyclopentylaniline | 1.30 mmol, 210 mg | C1(CCCC1)C1=CC=C(N)C=C1 | C11H15N
reactant | NBS | 1.30 mmol, 232 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 40 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-bromo-4-cyclopentylaniline | 251 mg, 80% yield | BrC1=C(N)C=CC(=C1)C1CCCC1 | C11H14BrN
